US08097628B2
(e) Phenylmethyl 6-(methyloxy)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-1(2H)-carboxylate
To a solution of 6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one (6.35 g, 35.4 mmol) in EtOAc (600 ml)/NaHCO3 (sat. solution) (200 ml) stirred vigorously was added at room temperature benzyl chloroformate (5.31 ml, 37.2 mmol). After 45 minutes the reaction was complete. The layers were separated and the organic layer was dried over MgSO4, filtered and evaporated to afford the desired product as an off-white solid (11 g, 99%).

reactant | 6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one | 35.4 mmol, 6.35 g | COC=1C=CC2=C(NC(CN2)=O)N1 | C8H9N3O2
reactant | NaHCO3 | 200 ml | C(=O)(O)[O-].[Na+]
reactant | benzyl chloroformate | 37.2 mmol, 5.31 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | EtOAc | 600 ml | CCOC(=O)C | C4H8O2
product | Phenylmethyl 6-(methyloxy)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-1(2H)-carboxylate | 11 g, 99% | COC=1C=CC2=C(NC(CN2C(=O)OCC2=CC=CC=C2)=O)N1 | C16H15N3O4
